US20010001799A1
In analogy to Example 1.1., tert-butyl (2,4-dichloro-6-formyl-phenoxy)-acetate was reacted with 4-amino-N-hydroxybenzamidine and benzyl isonitrile. There was obtained methyl (RS)-(2-tert-butoxycarbonylmethoxy-3,5-dichloro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino] -acetate; MS (ISP) m/z 498.2 (M+H)+, 520.2 (M+Na)+.

reactant | tert-butyl (2,4-dichloro-6-formyl-phenoxy)-acetate | ClC1=C(OCC(=O)OC(C)(C)C)C(=CC(=C1)Cl)C=O | C13H14Cl2O4
reactant | 4-amino-N-hydroxybenzamidine | NC1=CC=C(C(=N)NO)C=C1 | C7H9N3O
reactant | benzyl isonitrile | C(C1=CC=CC=C1)[N+]#[C-] | C8H7N
product | methyl (RS)-(2-tert-butoxycarbonylmethoxy-3,5-dichloro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino] -acetate | C(C)(C)(C)OC(=O)COC1=C(C=C(C=C1Cl)Cl)C(C(=O)OC)NC1=CC=C(C=C1)C(NO)=N | C22H25Cl2N3O6
